US05183899
5-Butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrazole-3-carboxylic acid
5-Butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]pyrazole-3-carboxylic acid (17.6 g), sodium azide (19.5 g), and ammonium chloride (13.4 g) were stirred in dimethylformamide (DMF) (140 ml) at 110°-120° C. for 5 days. The reaction mixture was poured into water (1.2 1), to which conc. HCl (35 ml) and ethyl acetate (700 ml) were added. The organic layer was washed with 0.1 N-HCl and water, dried, and concentrated under reduced pressure. To the residue was added ether, and the resultant crude crystals were recrystallized from ethyl acetate-ether to give colorless crystals (16.3 g, 83%).

reactant | 5-Butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]pyrazole-3-carboxylic acid | 17.6 g | C(CCC)C1=CC(=NN1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=O)O | C22H21N3O2
reactant | sodium azide | 19.5 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 13.4 g | [Cl-].[NH4+]
reactant | HCl | 35 ml | Cl | ClH
solvent | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-Butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrazole-3-carboxylic acid | 16.3 g, 83% | C(CCC)C1=CC(=NN1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=O)O | C22H22N6O2
